US06376491B1
Preparation of (5-Methyl-isoxazol-3-yl)-{3-methyl-4-[3-(methyl-pyridin-3-ylmethyl-amino)-propoxy]-benzofuran-2-ylmethyl}-amine
To a solution of (5-methyl-isoxazol-3-yl)-{3-methyl-4-[3-(methyl-pyridin-3-ylmethyl-amino)-propoxy]-benzofuran-2-ylmethylene}-amine (46 mg) in methanol (2 ml) was added sodium borohydride (20 mg) at room temperature. After 1 hour the mixture was concentrated in vacuo and purified by silica gel column chromatography developed by dichloromethane and methanol to give the titled compound as white solids (28 mg). ESI-MS: m/z 421 (MH+); 1H-NMR (CDCl3): δ 1.97-2.06 (2H, m), 2.25 (3H, s), 2.27 (3H, s), 2.28 (3H, s), 2.59 (2H, t, J=6.9 Hz), 3.52 (2H, s), 4.09 (2H, t, J=5.94 Hz), 4.41 (2H, s), 5.53 (1H, s), 6.58 (1H, d, J=7.6 Hz), 7.00 (1H, d, J=7.6 Hz), 7.05-7.15 (2H, m), 7.59-7.63 (1H, m), 8.39 (1H, dd, J=1.7 Hz, 4.9 Hz), 8.49 (1H, d, J=2.0 Hz).

reactant | (5-methyl-isoxazol-3-yl)-{3-methyl-4-[3-(methyl-pyridin-3-ylmethyl-amino)-propoxy]-benzofuran-2-ylmethylene}-amine | 46 mg | CC1=CC(=NO1)N=CC=1OC2=C(C1C)C(=CC=C2)OCCCN(CC=2C=NC=CC2)C | C24H26N4O3
reactant | sodium borohydride | 20 mg | [BH4-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | (5-Methyl-isoxazol-3-yl)-{3-methyl-4-[3-(methyl-pyridin-3-ylmethyl-amino)-propoxy]-benzofuran-2-ylmethyl}-amine | 28 mg | CC1=CC(=NO1)NCC=1OC2=C(C1C)C(=CC=C2)OCCCN(CC=2C=NC=CC2)C | C24H28N4O3
